US06610714B2
c) Ethyl 5-methoxy-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylate
7-Methoxy-1,2-dihydronaphthalene (8.8 g, 0.055 mol) was mixed with 1 ml of degassed absolute methylene chloride and 20 mg of rhodium acetate (appr. 0.1 mol %). The reaction mixture was bubbled with nitrogen and ethyl diazoacetate (2 eq, 50% solution in degassed abs. methylene chloride) was added slowly through the syringe (flow rate about 1 ml/hour) to the stirred solution at ambient temperature. Gas evolution started upon the addition. The reaction was monitored by GC. Additional amount of catalyst was added during the reaction (about 20 mg). GC-ratio of cis/trans isomers was 21:48.

reactant | 7-Methoxy-1,2-dihydronaphthalene | 0.055 mol, 8.8 g | COC1=CC=C2C=CCCC2=C1 | C11H12O
reactant | ethyl diazoacetate | 2 eq | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
catalyst | rhodium acetate | 20 mg | C(C)(=O)[O-].[Rh+3].C(C)(=O)[O-].C(C)(=O)[O-]
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 5-methoxy-1a,2,3,7b-tetrahydro-1H-cyclopropa[a]naphthalene-1-carboxylate | COC=1C=C2CCC3C(C2=CC1)C3C(=O)OCC | C15H18O3
